US08236798B2
To the solution of (R)-ethyl 5-oxo-pyrrolidine-2-carboxylate (D-pyroglutamic acid ethyl ester; 99% pure; 1403 mg, 8.84 mmol) in 20 ml of DMF 1-(bromomethyl)-2-(trifluoromethyl)benzene (96% pure; 2200 mg, 8.84 mmol), K2CO3 (3660 mg, 26.5 mmol) and a small amount of each KI and 18-crown-6 were added, and the mixture was heated at 80° C. for 6 h. Subsequently the mixture was poured into water and extracted three times with MTBE. The organic layer was washed with brine, dried over MgSO4 and the solvent removed under reduced pressure. Chromatography on silica gel using dichloromethane and dichloromethane/MeOH (99:1) resulted in (R)-5-oxo-1-(2-trifluoromethyl-benzyl)-pyrrolidine-2-carboxylic acid ethyl ester (410 mg, ESI-MS [M+H]+=316.1; yield: 12%), which was hydrolyzed to the corresponding carboxylate by stiffing overnight at room temperature in a solution of 15 ml ethanol and 1.56 mL 2N NaOH (aq). Evaporation of the solvent, followed by addition of water to the residue, extraction with ethyl acetate, subsequent acidification of the aqueous layer to pH 3 using concentrated HCl, extraction with dichloromethane, drying of the combined organic layers with MgSO4 and removal of the solvent under reduced pressure led to the desired product as a white foam.

reactant | (R)-ethyl 5-oxo-pyrrolidine-2-carboxylate | 8.84 mmol, 1403 mg | O=C1CC[C@@H](N1)C(=O)OCC | C7H11NO3
reactant | DMF 1-(bromomethyl)-2-(trifluoromethyl)benzene | 8.84 mmol, 20 ml, 2200 mg | CN(C)C=O.BrCC1=C(C=CC=C1)C(F)(F)F
reactant | K2CO3 | 26.5 mmol, 3660 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | O | H2O
product | (R)-5-oxo-1-(2-trifluoromethyl-benzyl)-pyrrolidine-2-carboxylic acid ethyl ester | 410 mg, yield: 12% | C(C)OC(=O)[C@@H]1N(C(CC1)=O)CC1=C(C=CC=C1)C(F)(F)F | C15H16F3NO3
